US05006520
In 70 ml of dimethylformamide were suspended 4.0 g of 1-(3-hydroxyphenyl)-3-phenyl-1H-pyrazolo[3,4-b]pyridine, 2.6 g of 3-dimethylamino-2-methylpropylchloride and 2.3 g of potassium carbonate. The mixture was stirred at 100° C. for 6 hours. The solvent was distilled off under reduced pressure. By adding maleic acid, the residue was converted into the salt. The obtained crude crystals were recrystallized from a mixed solvent of ethyl acetate and ethanol to give 5.2 g of 1-[3-(3-dimethylamino-2-methylpropoxy)phenyl]-3-phenyl-1H-pyrazolo[3,4-b]pyridine·maleate, m.p. 134°-136° C.

reactant | 1-(3-hydroxyphenyl)-3-phenyl-1H-pyrazolo[3,4-b]pyridine | 4.0 g | OC=1C=C(C=CC1)N1N=C(C=2C1=NC=CC2)C2=CC=CC=C2 | C18H13N3O
reactant | 3-dimethylamino-2-methylpropylchloride | 2.6 g | CN(CC(CCl)C)C | C6H14ClN
reactant | potassium carbonate | 2.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylformamide | 70 ml | CN(C=O)C | C3H7NO
product | 1-[3-(3-dimethylamino-2-methylpropoxy)phenyl]-3-phenyl-1H-pyrazolo[3,4-b]pyridine·maleate | 5.2 g | CN(CC(COC=1C=C(C=CC1)N1N=C(C=2C1=NC=CC2)C2=CC=CC=C2)C)C.C(\C=C/C(=O)[O-])(=O)[O-] | InChI=1S/C24H26N4O.C4H4O4/c1-18(16-27(2)3)17-29-21-12-7-11-20(15-21)28-24-22(13-8-14-25-24)23(26-28)19-9-5-4-6-10-19;5-3(6)1-2-4(7)8/h4-15,18H,16-17H2,1-3H3;1-2H,(H,5,6)(H,7,8)/p-2/b;2-1-
